US03994920
Reflux 45 g. of o-benzoylbenzoic acid and 120 ml. of ethylenediamine for 3 hours. Pour the mixture into ice water, allow to stand until the mixture is at room temperature and separate the product by filtration. Recrystallize from ethanol to obtain 9-phenyl-1,2,3,9b-tetrahydro-5H-imidazo-[2,1-a]isoindol-5-one, m.p. 155°-7° C. Elemental analysis confirms the empirical formula C16H14N2O.

reactant | o-benzoylbenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC=C1 | C14H10O3
reactant | ethylenediamine | C(CN)N | C2H8N2
product | 9-phenyl-1,2,3,9b-tetrahydro-5H-imidazo-[2,1-a]isoindol-5-one | C1(=CC=CC=C1)C=1C=CC=C2C(N3C(C12)NCC3)=O | C16H14N2O
